Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Latex / Nsaids
 
Attending: ___
 
Chief Complaint:
Hyperglycemia, Abdominal Pain

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
This is a ___ year old lady wi with PMH of Type I DM and 
malignant melanoma who presented to the ED with hyperglycemia 
and abdominal pain.

She reports that when she awoke this morning she was not feeling 
her usual self and found her blood sugar to be in the mid ___. 
She took her insulin per her regular pump indications for 
sliding scale but on serial rechecks her BS were persistently in 
the 300s.  Over the course of the day she slowly developed 
epigastric abdominal pain associated w/ nausea and ultimately 
emesis.  She denied fevers, chills, cough, or diarrhea. 

In the ED, initial VS were:  98.0 ___ 18 98%.   Initial 
labs were significant for WBC 22.4, Hct 46, Cr 1.1, K+ 5.2, Hc03 
11, glucose of 547 and lactate of 4.4. In the setting of 
abdominal pain on exam and leukocytosis, a CT abdomen and pelvis 
was performed with contrast which ruled out on preliminary read 
an acute process. For her anion gap acidosis she was started on 
an insulin gtt for treatment of DKA and given IVF 4L NS and 
started on vancomycin and zosyn for her elevated lactate. A 
repeat lactate decreased to 3.0. An VBG 7.___. A chest xray 
was clear. Blood cultures were drawn. Vitals on transfer were.
  
On arrival to the MICU,  pt was stable with VS: 98.6 113 108/49 
100% RA 18.
 
Past Medical History:
1) T1DM: Seen at ___ in ___ by Dr. ___. 
Diagnosed ___ at age ___. Has insulin pump and checks BS tid. 
Had dilated eye exam ___. +h/o progressive retinopathy. Last 
seen by podiatry ___. Last known A1c: 9.1 in ___ Focal nodular hyperplasia, followed with serial U/S by GI 
clinic  
3) h/o malignant melanoma, ___ level IV, dx ___, left upper 
arm, s/p wide excision and negative sentinel node biopsy, no 
further tx. Had second primary ___ level IV in ___, s/p wide 
excision with no sentinel node procedure.  
4) Anticardiolipin Ab  
5) HTN  
6) h/o vitreal hemmorhage  
7) h/o chronic sinusitis, seen by ENT over last year  
8) migraine headaches  
9) LBP with disc herniation L5-S1, with compression of L S1 root 

10) Infertility, s/p intrauterine fertilization  
11) Fibroid uterus  
 
Social History:
___
Family History:
NC
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals: T: 98.6 BP:108/49 P:113 R:18 O2: 100% on RA 
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
Neck: supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred, finger-to-nose intact  
.
DISCHARGE PHYSICAL EXAM:
Vitals: T: 98.6 BP:112/51 P:101 R:18 O2: 100% on RA 
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
Neck: supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred, finger-to-nose intact  

 
Pertinent Results:
Admission:
___ 12:03AM   GLUCOSE-547* UREA N-22* CREAT-1.1 SODIUM-134 
POTASSIUM-5.2* CHLORIDE-92* TOTAL CO2-11* ANION GAP-36*
___ 12:03AM   WBC-22.4*# RBC-4.95 HGB-15.0 HCT-46.8 MCV-95 
MCH-30.3 MCHC-32.0 RDW-12.8
___ 12:03AM   NEUTS-85.9* LYMPHS-12.1* MONOS-1.3* EOS-0.2 
BASOS-0.5
___ 12:20AM   LACTATE-4.4*
___ 01:45AM   LACTATE-3.0*
___ 03:17AM   ___ PO2-49* PCO2-32* PH-7.19* TOTAL 
CO2-13* BASE XS--14 COMMENTS-GREEN TOP

Discharge:

___ 07:01AM BLOOD WBC-15.5* RBC-4.07* Hgb-12.3 Hct-36.6# 
MCV-90 MCH-30.1 MCHC-33.5 RDW-12.5 Plt ___
___ 07:01AM BLOOD Neuts-72.5* ___ Monos-3.9 Eos-0.3 
Baso-0.5
___ 03:01AM BLOOD Glucose-99 UreaN-14 Creat-0.6 Na-139 
K-4.1 Cl-111* HCO3-20* AnGap-12
___ 03:01AM BLOOD Calcium-8.3* Phos-3.1 Mg-1.8
 
Brief Hospital Course:
This is a ___ yo lady with PMH of Type I DM and malignant 
melanoma who presents with an anion gap acidemia in the setting 
of elevated lactate and glucose in addition to a leukocytosis of 
unclear source. 

# Metabolic Acidemia: Pt had AG metabolic acidosis upon arrival 
to MICU, most likely ___ to DKA considering history of 
uncontrolled blood glucose. AG metabolic acidosis could also be 
___ lactic acidosis given her elevated lactate of 4.4 (now 
downtrending to 3.0).  Her elevated lactate may be associated 
with pt's DKA or associated with potential toxic ingestion of 
salicylates (pt currently taking Aspirin).  Given that bicarb 
may worsen the hypokalemia and hyperosmolarity observed in DKA, 
bicarbonate was avoided in empiric treatment of lactic acidosis. 
 Patient's lactate stabilized during hospitalization. Repeat ABG 
showed resolution of acidemia.  Patient received aggressive 
fluid resuscitation with D5 NS + K.  Patient was restarted on 
insulin drip and converted to insulin sliding scale per 
recommendation from ___ Endocrinology.

# Hyperglycemia/Insulin Dependant Diabetes:  Pt had a blood 
glucose of 547 upon transfer to the MICU as well as an AG of 36. 
___ Endocrinology found that the patient's insulin pump was 
malfunctioning and the likely cause of this episode of DKA.

#Leukocytosis: The patient was admitted with an elevated WBC of 
22.4.  The patient had no clear source of infection (clinically 
afebrile with negative blood cultures and negative abdominal CT 
and CXR).  Leukocytosis was most likely in association with DKA. 
During the patient's hospitalization, her WBC downtrended.

#HYPERLIPIDEMIA: Patient was continued on home dose of 
simvastatin.

#HTN: Patient was continued on home moexipril.
.
===================
TRANSITION OF CARE:
- Pt had leukocytosis during hospitalization, no suspected 
infectious focus: please recheck CBC at PCP appointment, and 
follow up blood cultures
- Pt needs more diabetes education (possibly reusing lancets for 
fingersticks) 
 
Medications on Admission:
INSULIN PUMP (HUMALOG INSULIN) 
MOEXIPRIL [UNIVASC] - 15 mg Tablet - 1 Tablet(s) by mouth once a 
day
SIMVASTATIN  
ASPIRIN [BABY ASPIRIN] 
MULTIVITAMIN WITH MINERALS 
PYRIDOXINE [VITAMIN B-6]  

 
Discharge Medications:
1. moexipril 15 mg Tablet Sig: One (1) Tablet PO once a day.  
2. Insulin Pump IR1250     Misc Sig: humalog insulin  
Miscellaneous as directed: humalog insulin pump per previous 
home regimen.  
3. Aspir-81 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO once a day.  
4. multivitamin     Tablet Sig: One (1) Tablet PO once a day.  
5. simvastatin  Oral
6. pyridoxine  Oral

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Diabetic ketoacidosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure participating in your care at ___ 
___. You were admitted to the hospital with 
high blood sugars (diabetic ketoacidosis). You were started on 
an insulin drip to treat your high blood sugars.  You also 
received IV fluids because you were dehydrated and to fix your 
electrolyte imbalance.  Your white blood cell count was also 
higher than normal, but we found no sign of infection and your 
white blood cell count has decreased over the past two days.  
You were seen by ___ who examined your insulin pump and found 
that your pump was malfunctioning, and because you were not 
receiving insulin, your blood sugars were high.

.
Please attend the follow up appointments listed below with your 
primary care doctor and your ___ physician.
.
We did not make any changes to your home medications. Please 
continue taking them as you were prior to hospitalization. Per 
your endocrinologist, your Pump ___ insulin plan is:

Home pump settings (units/hr):
Midnight 1
5am      1.8
7am      1.4
10a      0.8
12p      0.6
6p       0.6
Insulin drip @ 1.5 units/hr.

___-- 1:11g breakfast, 1:10g lunch, 1:8g dinner
 
Followup Instructions:
___